US07902238B2
To a stirred solution of (S)-4-[(isopropyl-phenyl-amino)-methyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (650 mg) in dioxane (5 ml) under an argon atmosphere was added HCl solution (4M in dioxane; 9.33 ml). The mixture was stirred overnight. The mixture was concentrated and the residue was dried to give (S)-2-amino-3-(isopropyl-phenyl-amino)-propan-1-ol dihydrochloride (616 mg, quant.) as off-white amorphous solid. MS (ISP): 209.3 ([M+H]+)

reactant | (S)-4-[(isopropyl-phenyl-amino)-methyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 650 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CN(C1=CC=CC=C1)C(C)C)(C)C | C20H32N2O3
reactant | HCl | 4M, 9.33 ml | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (S)-2-amino-3-(isopropyl-phenyl-amino)-propan-1-ol dihydrochloride | 616 mg | Cl.Cl.N[C@H](CO)CN(C1=CC=CC=C1)C(C)C | InChI=1S/C12H20N2O.2ClH/c1-10(2)14(8-11(13)9-15)12-6-4-3-5-7-12;;/h3-7,10-11,15H,8-9,13H2,1-2H3;2*1H/t11-;;/m0../s1
